US06271225B1
In the same manner as in Starting Material Synthesis Example 60 and using 2-bromo4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid, thionyl chloride and 2-amino-5-fluorophenol, 2-bromo-4,5,6,7-tetrahydro-N-(4-fluoro-2-hydroxyphenyl)-benzo[b]thiophene-3-carboxamide is obtained.

reactant | 2-bromo4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid | BrC1=C(C2=C(S1)CCCC2)C(=O)O | C9H9BrO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-5-fluorophenol | NC1=C(C=C(C=C1)F)O | C6H6FNO
product | 2-bromo-4,5,6,7-tetrahydro-N-(4-fluoro-2-hydroxyphenyl)-benzo[b]thiophene-3-carboxamide | BrC1=C(C2=C(S1)CCCC2)C(=O)NC2=C(C=C(C=C2)F)O | C15H13BrFNO2S
